US07910595B2
To a flask equipped with a vigreux column was added 2-amino-4-chloro-5-nitro-phenol, benzaldehyde, Darco KB and xylenes. The mixture was then refluxed overnight and the mixture was cooled, filtered and the solvent removed under vacuum. The resultant solid was recrystallized from Et2O to yield 5-chloro-6-nitro-2-phenyl-benzooxazole which was subjected to the procedure from Example 349B substituting 5-chloro-6-nitro-2-phenyl-benzooxazole for the product from Example 349A to provide the title product.

reactant | 2-amino-4-chloro-5-nitro-phenol | NC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])O | C6H5ClN2O3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | Darco | C | CH4
product | 5-chloro-6-nitro-2-phenyl-benzooxazole | ClC=1C(=CC2=C(N=C(O2)C2=CC=CC=C2)C1)[N+](=O)[O-] | C13H7ClN2O3
